US08957104B2
A 20 mL vial was charged with 4-fluoro-3-iodo-2-(trifluoromethyl)benzonitrile, (0.315 g, 1.00 mmol), Pd(PPh3)2Cl2 (0.014 g, 0.020 mmol) and CuI (0.0076 g, 0.040 mmol), and sealed with a rubber septum. Anhyd PhMe (5 mL) and DIPA (0.210 mL, 1.500 mmol) were added via syringe and the mixture was degassed 10 min by sparging with N2 while immersed in an ultrasonic bath. Ethynyltrimethylsilane (0.155 mL, 1.100 mmol) was added dropwise via syringe and the septum was replaced by a PTFE-faced crimp top. The mixture was stirred in a heating block at 60° C. Upon cooling the mixture was diluted with EtOAc and filtered through Celite. The filtrate was washed (satd NH4Cl, water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by low pressure liquid chromatography (silica gel, EtOAc/hexanes, gradient elution) affording 4-fluoro-2-(trifluoromethyl)-3-((trimethylsilyl)ethynyl)benzonitrile (0.231 g, 81% yield) as a light orange oil: 1H NMR (400 MHz, CDCl3) δ 7.75 (ddd, J=8.7, 5.0, 0.6 Hz, 1H), 7.39 (ddd, J=8.6, 7.8, 0.5 Hz, 1H), 0.28 (s, 9H); MS (GCMS EI) m/z 285 ([M]+, 15%), 270 ([M-CH3]+, 100%).

reactant | 4-fluoro-3-iodo-2-(trifluoromethyl)benzonitrile | 1.00 mmol, 0.315 g | FC1=C(C(=C(C#N)C=C1)C(F)(F)F)I | C8H2F4IN
reactant | PhMe | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | Ethynyltrimethylsilane | 1.100 mmol, 0.155 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.020 mmol, 0.014 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.040 mmol, 0.0076 g | [Cu]I
product | 4-fluoro-2-(trifluoromethyl)-3-((trimethylsilyl)ethynyl)benzonitrile | 0.231 g, 81% yield | FC1=C(C(=C(C#N)C=C1)C(F)(F)F)C#C[Si](C)(C)C | C13H11F4NSi
